US09340549B2
To a solution of 2-(5-bromo-2-fluoropyridin-3-yl)pyrimidine (1.7 g, 6.69 mmol) and dioxane (13.38 mL) were added potassium acetate (3.28 g, 33.5 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.), 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) (1.869 g, 7.36 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.) and 1,1′-bis(diphenylphosphino)ferrocene-palladium (II)dichloride DCM complex (0.546 g, 0.669 mmol, commercially available from Sigma-Aldrich, Milwaukee, Wis.). The reaction vessel was flushed with argon, sealed, and heated at 130° C. for 1 hour in a microwave oven. LC-MS showed complete conversion to the desired product. The reaction mixture was then cooled to room temperature and filtered through Celite® brand filter aid. After removal of solvent, the residue was absorbed onto a plug of silica gel and purified by chromatography through a Redi-Sep pre-packed silica gel column (40 g), eluting with a gradient of 0% to 50% EtOAc in hexane, to provide 2-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)pyrimidine (1.6 g, 5.31 mmol, 79% yield). 1H NMR (400 MHz, DMSO-d6) δ 9.00 (d, J=4.89 Hz, 2H), 8.82 (dd, J=1.96, 10.37 Hz, 1H), 8.55 (br. s, 1H), 7.57 (t, J=4.89 Hz, 1H), 1.34 (s, 12H). m/z (ESI) 219.9 (M-C6H9).

reactant | 2-(5-bromo-2-fluoropyridin-3-yl)pyrimidine | 6.69 mmol, 1.7 g | BrC=1C=C(C(=NC1)F)C1=NC=CC=N1 | C9H5BrFN3
reactant | potassium acetate | C(C)(=O)[O-].[K+]
reactant | 4,4,4′,4′,5,5,5′,5′-octamethyl-2,2′-bi(1,3,2-dioxaborolane) | CC1(OB(OC1(C)C)B1OC(C(O1)(C)C)(C)C)C | C12H24B2O4
solvent | dioxane | 13.38 mL | O1CCOCC1 | C4H8O2
product | 2-(2-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-3-yl)pyrimidine | 5.31 mmol, 1.6 g, 79% yield | FC1=NC=C(C=C1C1=NC=CC=N1)B1OC(C(O1)(C)C)(C)C | C15H17BFN3O2
